US07652061B2
To a suspension of 3-hydroxy phenylacetic acid (1.52 g, 10.0 mmol) in 10 mL of DCM is added L-proline methyl ester hydrochloride (1.80 g, 10.0 mmol) followed by the addition of TEA (1.67 mL, 12 mmol), 1-hydroxybenzotriazole (HOBt, 1.17 g, 10 mmol), and EDCl (1.92 g, 10 mmol). The mixture is stirred at RT for 4 days. Ethyl acetate and water is added, and the organic layer is separated and washed with brine, dried over anhydrous sodium sulfate, and concentrated. The crude mixture is purified by flash chromatography (silica gel) eluting with hexane:ethyl acetate (1:2) to give (R)-1-[2-(3-hydroxy-phenyl)-acetyl]-pyrrolidine-2-carboxylic acid ethyl ester as an oil.

reactant | 3-hydroxy phenylacetic acid | 10.0 mmol, 1.52 g | OC=1C=C(C=CC1)CC(=O)O | C8H8O3
reactant | L-proline methyl ester hydrochloride | 10.0 mmol, 1.80 g | Cl.COC([C@H]1NCCC1)=O
reactant | 1-hydroxybenzotriazole | 10 mmol, 1.17 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDCl | 10 mmol, 1.92 g | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-1-[2-(3-hydroxy-phenyl)-acetyl]-pyrrolidine-2-carboxylic acid ethyl ester | C(C)OC(=O)[C@@H]1N(CCC1)C(CC1=CC(=CC=C1)O)=O | C15H19NO4
